US04021557
A mixture of 4.5 gm of 6,11-dihydro-6-methyl-5H-pyrido[2,3-b][1,5]benzodiazepin-5-one, 0.83 gm of 55% sodium hydride in mineral oil, and 100 ml of absolute xylene was refluxed for two hours. Thereafter, 7 gm of p-toluenesulfonic acid 3-dimethylamino-n-propyl ester were added, and the resulting mixture was refluxed for 14 hours more. After cooling, the reaction mixture was suction-filtered, and the filtrate was extracted with dilute acetic acid. From the acidic aqueous phase, the base was precipitated as an oil with concentrated ammonia and taken up in ether. After evaporation of the ether solution, the residue was distilled, yielding 2.4 gm of 11(3'-dimethylamino-n-propyl)-6,11-dihydro-6-methyl-5H-pyrido[2,3-b][1,5]benzodiazepin-5-one, b.p. 180°-183° C. at 0.03 mm Hg, which melted at 98.5°-100° C. after crystallization from cyclohexane and recrystallization from petroleum ether.

reactant | 6,11-dihydro-6-methyl-5H-pyrido[2,3-b][1,5]benzodiazepin-5-one | 4.5 gm | CN1C(C2=C(NC3=C1C=CC=C3)N=CC=C2)=O | C13H11N3O
reactant | sodium hydride | 0.83 gm | [H-].[Na+]
reactant | p-toluenesulfonic acid 3-dimethylamino-n-propyl ester | 7 gm | CN(CCCOS(=O)(=O)C1=CC=C(C=C1)C)C | C12H19NO3S
solvent | xylene | 100 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 11(3'-dimethylamino-n-propyl)-6,11-dihydro-6-methyl-5H-pyrido[2,3-b][1,5]benzodiazepin-5-one | 2.4 gm | CN(CCCN1C2=C(C(N(C3=C1C=CC=C3)C)=O)C=CC=N2)C | C18H22N4O
